US07947706B2
47.1 mg of solid white 3-{4-[3-(4-methyl-3-trifluoromethylphenyl)ureido]-phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are prepared as described in Example 7 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide and 4-methyl-3-trifluoromethylphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 4-methyl-3-trifluoromethylphenyl isocyanate | CC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C9H6F3NO
product | 3-{4-[3-(4-methyl-3-trifluoromethylphenyl)ureido]-phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | CC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O)C(F)(F)F | C23H18F3N5O2
